US07442791B2
A solution of 1.09 g (2.87 mmol) of trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid methyl ester and 569 mg (85%, 8.62 mmol, 3 eq) of KOH in 20 mL of MeOH and 1 mL of H2O were refluxed for 3 h. After cooling to RT, 4.5 mL of 2M aqueous HCl were added and extracted with 3 portions of 20 mL of CH2Cl2. The combined organic phases were washed with H2O, then with brine, dried over anhydrous Na2SO4 and finally evaporated, leaving 1 g (95%) of trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid as white solid, MS: 364 ((M−H)−).

reactant | trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid methyl ester | 2.87 mmol, 1.09 g | COC(=O)[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C16H20F3NO4S
reactant | KOH | 8.62 mmol, 569 mg, 3 eq | [OH-].[K+]
reactant | HCl | 2M, 4.5 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | trans-4-[(4-trifluoromethyl-benzenesulfonylamino)-methyl]-cyclohexanecarboxylic acid | 1 g, 95% | FC(C1=CC=C(C=C1)S(=O)(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C15H18F3NO4S
